US06982268B2
To a solution of 3,5-dimethoxy-pyrazine-2-carbaldehyde (120 mg, 0.71 mmol) in MeOH (8 mL) is added sodium borohydride (40 mg, 1.1 mmol) at 0° C. After the mixture is stirred at this temperature for 0.5 hour, the reaction is quenched with saturated NH4Cl (0.7 mL) and solvent removed in vacuo until dryness. DCM (20 mL) is added, and the solution is dried and solvent removed to give 118 mg of (3,5-dimethoxy-pyrazin-2-yl)-methanol as an oil.

reactant | 3,5-dimethoxy-pyrazine-2-carbaldehyde | 0.71 mmol, 120 mg | COC=1C(=NC=C(N1)OC)C=O | C7H8N2O3
reactant | sodium borohydride | 1.1 mmol, 40 mg | [BH4-].[Na+]
solvent | MeOH | 8 mL | CO | CH4O
product | (3,5-dimethoxy-pyrazin-2-yl)-methanol | 118 mg | COC=1C(=NC=C(N1)OC)CO | C7H10N2O3
